US04877899
To a solution of 3-fluoro-3-hexylthio-2-propenyl acetate (0.36 g, 1.5 mmol) in 5 ml of methylene chloride is added m-chloroperbenzoic acid (0.34 g, 1.7 mmol) at 5°. After the reaction is complete, the reaction mixture is diluted with methylene chloride, poured into aqueous saturated Na2CO3, extracted with methylene chloride (2X), washed with brine, dried and stripped of solvent to give 3-fluoro-3-hexylsulfinyl2-propenyl acetate. The product is purified by prep. TLC on silica gel eluting with 40% ethylacetate/hexane. The upper band is collected to give (E)-3-fluoro-3-hexylsulfinyl-2propenyl acetate (cpd. 1, Table A).

reactant | 3-fluoro-3-hexylthio-2-propenyl acetate | 1.5 mmol, 0.36 g | C(C)(=O)OCC=C(SCCCCCC)F | C11H19FO2S
reactant | m-chloroperbenzoic acid | 1.7 mmol, 0.34 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-3-hexylsulfinyl2-propenyl acetate | C(C)(=O)OCC=C(S(=O)CCCCCC)F | C11H19FO3S
